US06894050B2
Preparation of Intermediate 6′-[Methyl-(6-methyl-pyridin-2-ylmethyl)-amino]-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (I-4g)
A mixture of 6′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester I-1a (50 mg, 0.17 mmol), methyl-(6-methyl-pyridin-2-ylmethyl)-amine (29.6 mg, 0.22 mmol), sodium tert-butoxide (45 mg, 0.46 mmol), BINAP (8.4 mg, 0.014 mmol), tris(dibenzylideneacetone)dipalladium(0) (6.2 mg, 0.006 mmol) in toluene (2 mL) was stirred at reflux for 2 h. The reaction mixture was cooled, diluted with ethyl acetate, and filtered through celite. The filtrate was concentrated in vacuo and the residue was purified via preparative TLC (5% methanol in methylene chloride) to yield the title compound I-4g (14.2 mg).

reactant | 6′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CN=C1)Cl | C13H19ClN4O2
reactant | methyl-(6-methyl-pyridin-2-ylmethyl)-amine | 0.22 mmol, 29.6 mg | CNCC1=NC(=CC=C1)C | C8H12N2
reactant | sodium tert-butoxide | 0.46 mmol, 45 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.014 mmol, 8.4 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.006 mmol, 6.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6′-[Methyl-(6-methyl-pyridin-2-ylmethyl)-amino]-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CN=C1)N(CC1=NC(=CC=C1)C)C | C21H30N6O2
